US03984465
Step D: 2,2-Dimethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone
2-Methyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone (9.63 g., 0.03 mole) and methyl iodide (18.7 ml., 0.3 mole) dissolved in dimethylformamide (100 ml.) at 25° C. under nitrogen are treated portionwise with sodium methoxide (4.2 g., 0.036 mole) over a 45 minute period. Sodium iodide is filtered off, and the yellow filtrate is added to water (500 ml.) to precipitate 6.57 g. of 2,2-dimethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone which melts at 146°-148° C. after crystallization from cyclohexane.

reactant | 2-Methyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone | 0.03 mole, 9.63 g | CC1C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)OC)Cl)Cl)=O | C17H14Cl2O2
reactant | methyl iodide | 0.3 mole, 18.7 ml | CI | CH3I
reactant | sodium methoxide | 0.036 mole, 4.2 g | C[O-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,2-Dimethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)OC)Cl)Cl)=O)C | C18H16Cl2O2
